US06030964
Preparation of 1,2,3,4,6,7,8,9-octahydro-6,6,9,9-tetramethylphenazin-1-one
20.0 g of 3,3,6,6,-tetramethyl-1,2-cyclohexanedione and 20 ml of 1,2-cyclohexanediamine were dissolved in 20 ml of acetic acid. The obtained solution was heated under reflux for 6 hours, cooled by allowing to stand, and poured into water, followed by the extraction with ethyl acetate. The organic phase was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate, and concentrated in a vacuum. The obtained residue was purified by silica gel chromatography (developer: 5% ethyl acetate/hexane) to give 16.0 g of the title compound as a colorless oil.

reactant | 3,3,6,6,-tetramethyl-1,2-cyclohexanedione | 20.0 g | CC1(C(C(C(CC1)(C)C)=O)=O)C | C10H16O2
reactant | 1,2-cyclohexanediamine | 20 ml | C1(C(CCCC1)N)N | C6H14N2
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4,6,7,8,9-octahydro-6,6,9,9-tetramethylphenazin-1-one | 16.0 g | CC1(C=2N=C3CCCC(C3=NC2C(CC1)(C)C)=O)C | C16H22N2O
